US07790723B2
2-[(4-{5-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine-1-carbonyl]-4-methylthiazol-2-yl}phenyl)hydrazono]malononitrile (“DB”)
2-[(4-{5-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine-1-carbonyl]4-methylthiazol-2-yl}phenyl)hydrazono]-2-(1H-tetrazol-5-yl)-acetonitrile, potassium salt

reactant | 2-[(4-{5-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine-1-carbonyl]4-methylthiazol-2-yl}phenyl)hydrazono]-2-(1H-tetrazol-5-yl)-acetonitrile | C(C)OC=1C=C(C=CC1OC)C1=NN(CCC1)C(=O)C1=C(N=C(S1)C1=CC=C(C=C1)NN=C(C#N)C1=NN=NN1)C | C27H26N10O3S
reactant | potassium | [K] | K
product | 2-[(4-{5-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine-1-carbonyl]-4-methylthiazol-2-yl}phenyl)hydrazono]malononitrile | C(C)OC=1C=C(C=CC1OC)C1=NN(CCC1)C(=O)C1=C(N=C(S1)C1=CC=C(C=C1)NN=C(C#N)C#N)C | C27H25N7O3S
